US08242104B2
7-Bromo-3,4-dihydro-2H-benzo[b]oxepin-5-one (10.0 g, 41.5 mmol) in dimethylformamide dimethylacetal (100 mL) was heated at 110° C. for 18 h. The reaction was allowed to cool to room temperature and cyclohexane (100 mL) was added. The resulting solid precipitate was collected by filtration, washed with cyclohexane and then dried under vacuum at 40° C. to yield 7-Bromo-4-[1-dimethylamino-meth-(E)-ylidene]-3,4-dihydro-2H-benzo[b]-oxepin-5-one as yellow crystals (8.19 g, 67%). 1H NMR δ (ppm) (CDCl3): 7.83 (1H, d, J=2.59 Hz), 7.74 (1H, s), 7.46 (1H, dd, J=8.51, 2.58 Hz), 6.88 (1H, d, J=8.52 Hz), 4.27-4.19 (2H, m), 3.14 (6H, s), 2.76-2.69 (2H, m).

reactant | 7-Bromo-3,4-dihydro-2H-benzo[b]oxepin-5-one | 41.5 mmol, 10.0 g | BrC1=CC2=C(OCCCC2=O)C=C1 | C10H9BrO2
reactant | cyclohexane | 100 mL | C1CCCCC1 | C6H12
reactant | dimethylformamide dimethylacetal | 100 mL | COC(N(C)C)OC | C5H13NO2
product | 7-Bromo-4-[1-dimethylamino-meth-(E)-ylidene]-3,4-dihydro-2H-benzo[b]-oxepin-5-one | 8.19 g, 67% | BrC1=CC2=C(OCC\C(\C2=O)=C/N(C)C)C=C1 | C13H14BrNO2
